US08106070B2
(4-bromo-3-fluorophenyl)acetonitrile (40 g, 0.18 mol) was dissolved in 120 mL methanol, and 65 mL concentrated sulfuric acid were added. After heating at reflux overnight, the reaction mixture was cooled, and poured into 600 mL water, and the product was extracted with CH2Cl2. The combined extracts were washed with 10% sodium carbonate solution, dried, and concentrated to afford methyl (4-bromo-3-fluorophenyl)acetate.

reactant | (4-bromo-3-fluorophenyl)acetonitrile | 0.18 mol, 40 g | BrC1=C(C=C(C=C1)CC#N)F | C8H5BrFN
reactant | sulfuric acid | 65 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 600 mL | O | H2O
reactant | methanol | 120 mL | CO | CH4O
product | methyl (4-bromo-3-fluorophenyl)acetate | BrC1=C(C=C(C=C1)CC(=O)OC)F | C9H8BrFO2
